US07511133B2
A 250 mL round bottom flask was equipped with a magnetic stirrer. The flask was charged with isopropylmethylamine (0.85 g, 11.6 mmol) followed by THF (50 mL). The mixture was cooled to 0° C. by placing the flask in an ice bath. Potassium hydroxide (23.2 mmol) was dissolved in water (20 mL) and added to the flask. An addition funnel was installed and charged with 2-nitrobenzenesulfonyl chloride (11.6 mmol) in THF (40 mL). The solution was added dropwise over 20 minutes, then the ice bath was removed. TLC (dichloromethane) indicated that the reaction was complete after addition of the 2-nitro-benzenesulfonyl chloride. The reaction was concentrated under diminished pressure, water (100 mL) was added, the mixture extracted with ethyl acetate (150 mL), dried (Na2SO4), and filtered. The solvent was removed under reduced pressure. The residue was dissolved in dichloromethane (20 mL) and loaded onto a plug of silica gel (400 g in a 600 mL sintered glass funnel), and eluted with dichloromethane. Fractions were taken (100 mL) until the product eluted, as determined by TLC. Fractions containing the product were collected, and the solvent was removed in vacuo to yield N-(isopropyl)-N-(methyl)-2-nitrobenzenesulfonamide as a pale yellow oil. 3.08 g, (88%). 1H-NMR (CDCl3): δ 1.12-1.14 (d, 6H, J=6.7 Hz); 2.81 (s, 3H); 4.18-4.24 (m, 1H, J=6.7 Hz); 7.61-7.69 (m, 3H); 8.03-8.06 (m, 1H).

reactant | isopropylmethylamine | 11.6 mmol, 0.85 g | C(C)(C)NC | C4H11N
reactant | Potassium hydroxide | 23.2 mmol | [OH-].[K+]
reactant | 2-nitrobenzenesulfonyl chloride | 11.6 mmol | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClNO4S
solvent | water | 20 mL | O | H2O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | N-(isopropyl)-N-(methyl)-2-nitrobenzenesulfonamide | C(C)(C)N(S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])C | C10H14N2O4S
